US08981111B2
To a solution of 5-bromo-1,2-dimethyl-1H-imidazole (10.0 g, 57.1 mmol) in dichloromethane (50 mL) was added dropwise ethylmagnesium bromide (3 M in Et2O, 19.0 mL, 57.0 mmol). After stirring at room temperature for 30 min, the reaction mixture was cooled down to 0° C. with an ice-brine bath and N-Methoxy-N-methyl-benzamide (8.70 mL, 57.1 mmol) was added dropwise. The mixture was stirred for 7.5 h at room temperature. The mixture was worked-up by addition of water (100 mL), then acidified with aq. HCl (1 M) until pH=7. After extraction with dichloromethane (2×75 mL), the organic layers were washed with water (2×100 mL) then dried over MgSO4 and concentrated in vacuo. Purification of the residue on silica gel afforded (1,2-dimethyl-1H-imidazol-5-yl)(phenyl)methanone [8.41 g, yield 44%; HPLC/MS: m/z=201 (M+H); log P(HCOOH)=0.56].

reactant | 5-bromo-1,2-dimethyl-1H-imidazole | 57.1 mmol, 10.0 g | BrC1=CN=C(N1C)C | C5H7BrN2
reactant | ethylmagnesium bromide | 57.0 mmol, 3 M, 19.0 mL | C(C)[Mg]Br
reactant | N-Methoxy-N-methyl-benzamide | 57.1 mmol, 8.70 mL | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
reactant | HCl | 1 M | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | (1,2-dimethyl-1H-imidazol-5-yl)(phenyl)methanone | 8.41 g, yield 44% | CN1C(=NC=C1C(=O)C1=CC=CC=C1)C | C12H12N2O
